US05037834
2-[(Dimethylamino)methylene]-1-triphenylmethyl-4-piperidone
1-Triphenylmethyl-4-piperidone (0.239 g, 0.70 mmol) was added to methoxybis(dimethylamino)methane (1.75 ml) and the reaction mixture was stirred at 50° for sixteen hours. Volatiles were then removed in vacuo to provide a yellow solid, which was triturated with ether, and air dried to give the title product as a light yellow solid (0.179 g, 0.45 mmol, 64% yield).

reactant | 1-Triphenylmethyl-4-piperidone | 0.70 mmol, 0.239 g | C1(=CC=CC=C1)C(N1CCC(CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
reactant | methoxybis(dimethylamino)methane | 1.75 ml | COC(N(C)C)N(C)C | C6H16N2O
product | 2-[(Dimethylamino)methylene]-1-triphenylmethyl-4-piperidone | 0.45 mmol, 0.179 g, 64% yield | CN(C)C=C1N(CCC(C1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O
